* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.011222e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.836558e-01)*u*u + (2.899843e+00)*u + (1.429769e+01)),1.772851e+01),8.369359e+01)}
.param L_a = {min(max(exp((1.397007e-01)*u*u + (2.061810e+00)*u + (-4.539550e+00)),5.932287e-06),2.785615e-05)}
.param R_pl = {min(max(exp((-1.730472e-12)*u*u + (-2.940635e-11)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.902512e-04)*u*u + (4.488688e-03)*u + (2.676013e-02),4.550078e-04),2.629108e-03)}
.param G1 = {min(max((4.900041e-05)*u*u + (3.942973e-04)*u + (-1.902566e-03),-1.808936e-03),-4.255662e-04)}
.param w1 = {min(max(exp((3.510447e-02)*u*u + (6.656448e-01)*u + (1.803510e+01)),2.905505e+06),3.101986e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-6.652013e-02)*u*u + (-1.342871e+00)*u + (-1.516600e+01)),1.824296e-04),2.206812e-04)}
.param gn1 = {min(max(exp((-1.880272e-01)*u*u + (-2.987303e+00)*u + (-1.143318e+01)),3.236463e-01),1.512886e+00)}
.param gn2 = {min(max(exp((-1.837116e-01)*u*u + (-2.905016e+00)*u + (-1.244531e+01)),8.003142e-02),3.739173e-01)}
.param gn3 = {min(max(exp((-2.025709e-01)*u*u + (-3.264591e+00)*u + (-1.541873e+01)),2.201458e-02),1.030887e-01)}
.param gn4 = {min(max(exp((-1.698009e-01)*u*u + (-2.637650e+00)*u + (-1.310066e+01)),1.173661e-02),5.504027e-02)}
.param gn5 = {min(max(exp((1.716220e+00)*u*u + (3.068251e+01)*u + (1.243842e+02)),2.917659e-06),1.262128e-03)}
.param gn6 = {min(max(exp((-2.187713e-01)*u*u + (-4.383716e+00)*u + (-3.976301e+01)),9.626063e-09),1.620062e-08)}
.param vreg = {min(max((1.995509e-04)*u*u + (2.399391e-03)*u + (9.065295e-01),9.003383e-01),9.039474e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-9.641010e+00)*vddc*vddc*vddc*vddc + (4.378899e+01)*vddc*vddc*vddc + (-7.433767e+01)*vddc*vddc + (5.590457e+01)*vddc + (-1.481593e+01) - (8.991185e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=9.979136e-10 ESR=5.045151e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-5.380136e-03,1.000000e-06,-1.844869e-03,1.300000e-05,-7.560400e-04,2.500000e-05,-4.249304e-05,3.700000e-05,5.072180e-04,4.900000e-05,9.647670e-04,6.100000e-05,1.363298e-03,7.300000e-05,1.720937e-03,8.500000e-05,2.048718e-03,9.700000e-05,2.353885e-03,1.090000e-04,2.641467e-03,1.210000e-04,2.915108e-03,1.330000e-04,3.177538e-03,1.450000e-04,3.430858e-03,1.570000e-04,3.676723e-03,1.690000e-04,3.916458e-03,1.810000e-04,4.151142e-03,1.930000e-04,4.381660e-03,2.050000e-04,4.608752e-03,2.170000e-04,4.833034e-03,2.290000e-04,5.055032e-03,2.410000e-04,5.275191e-03,2.530000e-04,5.493891e-03,2.650000e-04,5.711463e-03,2.770000e-04,5.928192e-03,2.890000e-04,6.144324e-03,3.010000e-04,6.360079e-03,3.130000e-04,6.575645e-03,3.250000e-04,6.791193e-03,3.370000e-04,7.006872e-03,3.490000e-04,7.222816e-03,3.610000e-04,7.439146e-03,3.730000e-04,7.655971e-03,3.850000e-04,7.873391e-03,3.970000e-04,8.091495e-03,4.090000e-04,8.310370e-03,4.210000e-04,8.530094e-03,4.330000e-04,8.750741e-03,4.450000e-04,8.972383e-03,4.570000e-04,9.195088e-03,4.690000e-04,9.418924e-03,4.810000e-04,9.643957e-03,4.930000e-04,9.792979e-03,5.010000e-04,1.017221e-02,5.210000e-04,1.055539e-02,5.410000e-04,1.094285e-02,5.610000e-04,1.133496e-02,5.810000e-04,1.173213e-02,6.010000e-04,1.213484e-02,6.210000e-04,1.254364e-02,6.410000e-04,1.295919e-02,6.610000e-04,1.338226e-02,6.810000e-04,1.381383e-02,7.010000e-04,1.425509e-02,7.210000e-04,1.470752e-02,7.410000e-04,1.517303e-02,7.610000e-04,1.565409e-02,7.810000e-04,1.615391e-02,8.010000e-04,1.667679e-02,8.210000e-04,1.722854e-02,8.410000e-04,1.781706e-02,8.610000e-04,1.845319e-02,8.810000e-04,1.915171e-02,9.010000e-04,1.993245e-02,9.210000e-04,2.082083e-02,9.410000e-04,2.184695e-02,9.610000e-04,2.304174e-02,9.810000e-04,2.443000e-02,1.001000e-03,2.602308e-02,1.021000e-03,2.781618e-02,1.041000e-03,2.979197e-02,1.061000e-03,3.192722e-02,1.081000e-03,3.419827e-02,1.101000e-03,3.658377e-02,1.121000e-03,3.906565e-02,1.141000e-03,4.162911e-02,1.161000e-03,4.426211e-02,1.181000e-03,4.695495e-02,1.201000e-03,4.969977e-02,1.221000e-03,5.249020e-02,1.241000e-03,5.532099e-02,1.261000e-03,5.818785e-02,1.281000e-03,6.108720e-02,1.301000e-03,6.401605e-02,1.321000e-03,6.697187e-02,1.341000e-03,6.995254e-02,1.361000e-03,7.295622e-02,1.381000e-03,7.598136e-02,1.401000e-03,7.902658e-02,1.421000e-03,8.209073e-02,1.441000e-03,8.517277e-02,1.461000e-03,8.827180e-02,1.481000e-03,9.138702e-02,1.501000e-03,9.451773e-02,1.521000e-03,9.766331e-02,1.541000e-03,1.008232e-01,1.561000e-03,1.039969e-01,1.581000e-03,1.071840e-01,1.601000e-03,1.103841e-01,1.621000e-03,1.135967e-01,1.641000e-03,1.168217e-01,1.661000e-03,1.200586e-01,1.681000e-03,1.233073e-01,1.701000e-03,1.265674e-01,1.721000e-03,1.298389e-01,1.741000e-03,1.331214e-01,1.761000e-03,1.364148e-01,1.781000e-03,1.397189e-01,1.801000e-03,1.430336e-01,1.821000e-03,1.463588e-01,1.841000e-03,1.496943e-01,1.861000e-03,1.530401e-01,1.881000e-03,1.563960e-01,1.901000e-03,1.597620e-01,1.921000e-03,1.631379e-01,1.941000e-03,1.665238e-01,1.961000e-03,1.699196e-01,1.981000e-03,1.733252e-01,2.001000e-03,1.767406e-01,2.021000e-03,1.801658e-01,2.041000e-03,1.836008e-01,2.061000e-03,1.870455e-01,2.081000e-03,1.904999e-01,2.101000e-03,1.939642e-01,2.121000e-03,1.974382e-01,2.141000e-03,2.009221e-01,2.161000e-03,2.044158e-01,2.181000e-03,2.079194e-01,2.201000e-03,2.114331e-01,2.221000e-03,2.149567e-01,2.241000e-03,2.184906e-01,2.261000e-03,2.220346e-01,2.281000e-03,2.255891e-01,2.301000e-03,2.291540e-01,2.321000e-03,2.327296e-01,2.341000e-03,2.363160e-01,2.361000e-03,2.399133e-01,2.381000e-03,2.435219e-01,2.401000e-03,2.471420e-01,2.421000e-03,2.507737e-01,2.441000e-03,2.544175e-01,2.461000e-03,2.580735e-01,2.481000e-03,2.617422e-01,2.501000e-03,2.654241e-01,2.521000e-03,2.691194e-01,2.541000e-03,2.728287e-01,2.561000e-03,2.765525e-01,2.581000e-03,2.802915e-01,2.601000e-03,2.840462e-01,2.621000e-03,2.878173e-01,2.641000e-03,2.916057e-01,2.661000e-03,2.954122e-01,2.681000e-03,2.992376e-01,2.701000e-03,3.030831e-01,2.721000e-03,3.069496e-01,2.741000e-03,3.108383e-01,2.761000e-03,3.147505e-01,2.781000e-03,3.186876e-01,2.801000e-03,3.226510e-01,2.821000e-03,3.266423e-01,2.841000e-03,3.306630e-01,2.861000e-03,3.347150e-01,2.881000e-03,3.388002e-01,2.901000e-03,3.429205e-01,2.921000e-03,3.470780e-01,2.941000e-03,3.512750e-01,2.961000e-03,3.555138e-01,2.981000e-03,3.597970e-01,3.001000e-03,3.641272e-01,3.021000e-03,3.685073e-01,3.041000e-03,3.729402e-01,3.061000e-03,3.774293e-01,3.081000e-03,3.819778e-01,3.101000e-03,3.865896e-01,3.121000e-03,3.912687e-01,3.141000e-03,3.960193e-01,3.161000e-03,4.008462e-01,3.181000e-03,4.057543e-01,3.201000e-03,4.107493e-01,3.221000e-03,4.158372e-01,3.241000e-03,4.210246e-01,3.261000e-03,4.263189e-01,3.281000e-03,4.317281e-01,3.301000e-03,4.372613e-01,3.321000e-03,4.429282e-01,3.341000e-03,4.487400e-01,3.361000e-03,4.547089e-01,3.381000e-03,4.608486e-01,3.401000e-03,4.672745e-01,3.421000e-03,4.738132e-01,3.441000e-03,4.805757e-01,3.461000e-03,4.875835e-01,3.481000e-03,4.948609e-01,3.501000e-03,5.024349e-01,3.521000e-03,5.103354e-01,3.541000e-03,5.185957e-01,3.561000e-03,5.272519e-01,3.581000e-03,5.363434e-01,3.601000e-03,5.459119e-01,3.621000e-03,5.560010e-01,3.641000e-03,5.666548e-01,3.661000e-03,5.779162e-01,3.681000e-03,5.898249e-01,3.701000e-03,6.024146e-01,3.721000e-03,6.157107e-01,3.741000e-03,6.297286e-01,3.761000e-03,6.444719e-01,3.781000e-03,6.599330e-01,3.801000e-03,6.760939e-01,3.821000e-03,6.929288e-01,3.841000e-03,7.104069e-01,3.861000e-03,7.284949e-01,3.881000e-03,7.471593e-01,3.901000e-03,7.663686e-01,3.921000e-03,7.860934e-01,3.941000e-03,8.063073e-01,3.961000e-03,8.269865e-01,3.981000e-03,8.481099e-01,4.001000e-03,8.696582e-01,4.021000e-03,8.916136e-01,4.041000e-03,9.139595e-01,4.061000e-03,9.366800e-01,4.081000e-03,9.597598e-01,4.101000e-03,9.831845e-01,4.121000e-03,1.006940e+00,4.141000e-03,1.031012e+00,4.161000e-03,1.055238e+00,4.181000e-03,1.079909e+00,4.201000e-03,1.104858e+00,4.221000e-03,1.130071e+00,4.241000e-03,1.155535e+00,4.261000e-03,1.181238e+00,4.281000e-03,1.207169e+00,4.301000e-03,1.233314e+00,4.321000e-03,1.259664e+00,4.341000e-03,1.286208e+00,4.361000e-03,1.312934e+00,4.381000e-03,1.339832e+00,4.401000e-03,1.366894e+00,4.421000e-03,1.394108e+00,4.441000e-03,1.421468e+00,4.461000e-03,1.448963e+00,4.481000e-03,1.476585e+00,4.501000e-03,1.504327e+00,4.521000e-03,1.532181e+00,4.541000e-03,1.560139e+00,4.561000e-03,1.588196e+00,4.581000e-03,1.616344e+00,4.601000e-03,1.644576e+00,4.621000e-03,1.672888e+00,4.641000e-03,1.701273e+00,4.661000e-03,1.729725e+00,4.681000e-03,1.758241e+00,4.701000e-03,1.786814e+00,4.721000e-03,1.815440e+00,4.741000e-03,1.844115e+00,4.761000e-03,1.872834e+00,4.781000e-03,1.901594e+00,4.801000e-03,1.930390e+00,4.821000e-03,1.959219e+00,4.841000e-03,1.988078e+00,4.861000e-03,2.016963e+00,4.881000e-03,2.045872e+00,4.901000e-03,2.074800e+00,4.921000e-03,2.103746e+00,4.941000e-03,2.132707e+00,4.961000e-03,2.161680e+00,4.981000e-03,2.190663e+00,5.001000e-03,2.219653e+00,5.021000e-03,2.248649e+00,5.041000e-03,2.277648e+00,5.061000e-03,2.306648e+00,5.081000e-03,2.335648e+00,5.101000e-03,2.364646e+00,5.121000e-03,2.393640e+00,5.141000e-03,2.422628e+00,5.161000e-03,2.451609e+00,5.181000e-03,2.480582e+00,5.201000e-03,2.509545e+00,5.221000e-03,2.538497e+00,5.241000e-03,2.567436e+00,5.261000e-03,2.596362e+00,5.281000e-03,2.625274e+00,5.301000e-03,2.654169e+00,5.321000e-03,2.683048e+00,5.341000e-03,2.711910e+00,5.361000e-03,2.740753e+00,5.381000e-03,2.769576e+00,5.401000e-03,2.798379e+00,5.421000e-03,2.827161e+00,5.441000e-03,2.855922e+00,5.461000e-03,2.884660e+00,5.481000e-03,2.913375e+00,5.501000e-03,2.942066e+00,5.521000e-03,2.970733e+00,5.541000e-03,2.999375e+00,5.561000e-03,3.027992e+00,5.581000e-03,3.056583e+00,5.601000e-03,3.085147e+00,5.621000e-03,3.113685e+00,5.641000e-03,3.142195e+00,5.661000e-03,3.170678e+00,5.681000e-03,3.199132e+00,5.701000e-03,3.227559e+00,5.721000e-03,3.255956e+00,5.741000e-03,3.284324e+00,5.761000e-03,3.312663e+00,5.781000e-03,3.340972e+00,5.801000e-03,3.369251e+00,5.821000e-03,3.397500e+00,5.841000e-03,3.425719e+00,5.861000e-03,3.453906e+00,5.881000e-03,3.482063e+00,5.901000e-03,3.510189e+00,5.921000e-03,3.538283e+00,5.941000e-03,3.566346e+00,5.961000e-03,3.594378e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 8.600675e-09        $ corner 18.5 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 6.092649e-10        $ corner 261.2 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 4.216820e-11        $ corner 3774 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 4.077992e-13        $ corner 3.903e+05 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 2.039064e-13        $ corner 7.805e+05 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 3.558243e-15        $ corner 4.473e+07 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

